US04764310
A mixture of 150 g of dimethyl terephthalate and 7 g of triphenylphosphine oxide was gassed with phosgene as in Example 1. After 5 hours, the reaction mixture contained only 1.3% of dimethyl terephthalate and 1.3% of methyl terephthalate chloride. After 6-7 hours, the conversion was complete and terephthalic acid dichloride was obtained (>99% pure).

reactant | dimethyl terephthalate | 150 g | C(C1=CC=C(C(=O)OC)C=C1)(=O)OC | C10H10O4
reactant | triphenylphosphine oxide | 7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=O | C18H15OP
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | methyl terephthalate chloride | [Cl-].C(C1=CC=C(C(=O)[O-])C=C1)(=O)OC
product | terephthalic acid dichloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
